US09108957B2
A solution of (S)-3-[4-(1-Methyl-6-oxo-1,6-dihydro-[4,4′]bipyrimidinyl-2-yl)-[1,4]oxazepan-2-yl]-benzamide (A015) (200 mg, 0.492 mmol) in N,N-dimethylacetamide dimethyl acetal (0.760 ml) was stirred at 110° C. for one hour. The mixture was concentrated under reduced pressure, and then 1,4-dioxane (0.820 ml), acetic acid (0.820 ml), 1N-sodium hydroxide (0.490 ml) and hydroxylamine hydrochloride (43.1 mg 0.491 mmol) was added. The mixture was stirred at 100° C. for 3 hours and partitioned between water and chloroform. The organic layer was washed with brine and aqueous sodium hydrogen carbonate, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluant; chloroform/methanol=98/2) to afford (S)-1-Methyl-2-{2-[3-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-[1,4]oxazepan-4-yl}-1H-[4,4′]bipyrimidinyl-6-one (A045) as pale yellow solid (116 mg, 53%).

reactant | (S)-3-[4-(1-Methyl-6-oxo-1,6-dihydro-[4,4′]bipyrimidinyl-2-yl)-[1,4]oxazepan-2-yl]-benzamide | 0.492 mmol, 200 mg | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1C[C@@H](OCCC1)C=1C=C(C(=O)N)C=CC1 | C21H22N6O3
reactant | 1,4-dioxane | 0.820 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 0.490 ml | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 0.491 mmol, 43.1 mg | Cl.NO
solvent | N,N-dimethylacetamide dimethyl acetal | 0.760 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | acetic acid | 0.820 ml | C(C)(=O)O | C2H4O2
product | (S)-1-Methyl-2-{2-[3-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenyl]-[1,4]oxazepan-4-yl}-1H-[4,4′]bipyrimidinyl-6-one | 116 mg, 53% | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1C[C@@H](OCCC1)C1=CC(=CC=C1)C1=NC(=NO1)C | C23H23N7O3
